US07132544B2
4-(Dimethoxymethyl)pyridine
To a solution of 4-pyridinecarboxaldehyde (100.00 g, 0.93 mol) and trimethylorthoformate (159.20 g, 1.50 mol) in methanol (180 mL) at 0° C., under N2, was added concentrated sulfuric acid (41 mL, 0.45 mol). The resulting white suspension was heated to reflux and stirred for 24 hours. The reaction solution became clear after 2 h. After cooling to room temperature, the reaction mixture was poured slowly into a solution of 25 wt. % sodium methoxide (360 mL) in methanol (300 mL). The mixture was then concentrated in vacuo to a light brown thick oil. To this crude oil was added t-butylmethyl ether (500 mL), followed by the slow addition of water (40 mL) (to convert the inorganics to filterable solids). After filtration through a pad of Celite, the filtrate was concentrated to yield a light brown oil. The crude oil was vacuum distilled to yield the desired product as a colorless oil

reactant | 4-pyridinecarboxaldehyde | 0.93 mol, 100.00 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | trimethylorthoformate | 1.50 mol, 159.20 g | COC(OC)OC | C4H10O3
reactant | sulfuric acid | 0.45 mol, 41 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium methoxide | 360 mL | C[O-].[Na+]
solvent | methanol | 180 mL | CO | CH4O
solvent | methanol | 300 mL | CO | CH4O
product | 4-(Dimethoxymethyl)pyridine | COC(C1=CC=NC=C1)OC | C8H11NO2
